US05610162
Preparation of 17-(12-(isopropylthio)dodecanoyloxy)-4-methyl-5α-4-azaandrostan-3-one
Employing substantially the same procedure as described in Example 1, but substituting 17-hydroxy-4-methyl-5α-4-azaandrostan-3-one and 12-(isopropylthio)dodecanoic acid for the 20-hydroxy-4-methyl-5α-4-azapregnan-3-one and 11-ethylthioundecanoic acid, respectively, used therein, the title compound was obtained. MS M+ calculated for C34H59NO3S, mw=561.92; observed m/e 561.

reactant | 17-hydroxy-4-methyl-5α-4-azaandrostan-3-one | OC1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3N(C(CC[C@]3(C)[C@H]1CC2)=O)C | C19H31NO2
reactant | 12-(isopropylthio)dodecanoic acid | C(C)(C)SCCCCCCCCCCCC(=O)O | C15H30O2S
reactant | 20-hydroxy-4-methyl-5α-4-azapregnan-3-one | OC(C)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4N(C(CC[C@]4(C)[C@H]3CC[C@]12C)=O)C | C21H35NO2
reactant | 11-ethylthioundecanoic acid | C(C)CCCCCCCCCCC(=S)O | C13H26OS
product | 17-(12-(isopropylthio)dodecanoyloxy)-4-methyl-5α-4-azaandrostan-3-one | C(C)(C)SCCCCCCCCCCCC(=O)OC1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3N(C(CC[C@]3(C)[C@H]1CC2)=O)C | C34H59NO3S
